US09233979B2
CDI (395 mg, 2.434 mmol) was added to a stirred, room temperature mixture of 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (500 mg, 1.217 mmol) 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine and imidazole (331 mg, 4.87 mmol) in tetrahydrofuran (12 mL), and the mixture was stirred at room temperature for overnight. 2,2-Difluoroethanol (0.231 mL, 3.65 mmol) was added to the mixture, and the resultant mixture was kept stirring at room temperature for 2 h before the reaction mixture was heated up to 60° C. for overnight. The mixture was cooled and concentrated, and the residue was loaded directly purified with silica gel column chromatography eluting with EtOAc/isohexane=25%, to give 2,2-difluoroethyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (570 mg, 1.098 mmol, 90% yield) as a white solid. MS ESI calc'd. for C28H22ClF2N4O2 [M+H]+ 519. found 519.

reactant | CDI | 2.434 mmol, 395 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 1.217 mmol, 500 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N | C25H19ClN4
reactant | imidazole | 4.87 mmol, 331 mg | N1C=NC=C1 | C3H4N2
reactant | 2,2-Difluoroethanol | 3.65 mmol, 0.231 mL | FC(CO)F | C2H4F2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 2,2-difluoroethyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 1.098 mmol, 570 mg, 90% yield | FC(COC(NC1=NN(C2=C1C=NC(=C2)Cl)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)F | C28H21ClF2N4O2
